US07432260B2
[4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-yl]-[4-(4-methanesulonyl-piperazin-1-yl)-phenyl]-amine [10].
A mixture of [4-(2,4-dimethyl-thiazol-5-yl)-pyrimidin-2-yl]-(4-piperazin-1-yl-phenyl)-amine (86 mg, 0.23 mmol) in anhydrous CH2Cl2 (2 mL) was added Et3N (39 μL, 0.28 mmol). After cooling to 0° C., methanesulfonyl chloride (22 μL, 0.28 mmol) was added dropwise. After 15 min stirring, the reaction mixture was warmed to room temperature and stirring was continued for 18 h. After evaporation, the residue was purified by SiO2 chromatography (98:2 to 95:5 EtOAc/2 M NH3 in MeOH) to afford the title compound (61 mg) as a yellow solid. 1H-NMR (CDCl3) δ: 2.69 (s, 3H, CH3), 2.71 (s, 3H, CH3), 2.84 (s, 3H, CH3), 3.26 (t, 4H, J=5.1 Hz, CH2), 3.41 (t, 4H, J=5.1 Hz, CH2), 6.91 (d, 1H, J=5.1 Hz, pyrimidinyl-H), 6.98 (d, 2H, J=8.8 Hz, Ph-H), 7.10 (br. s, 1H, NH), 7.56 (d, 2H, J=8.8 Hz, Ph-H), 8.30 (d, 1H, J=5.1 Hz, pyrimidinyl-H). MS (ESI+) m/z 446 (C20H24N6O2S2 requires 444.6).

reactant | [4-(2,4-dimethyl-thiazol-5-yl)-pyrimidin-2-yl]-(4-piperazin-1-yl-phenyl)-amine | 0.23 mmol, 86 mg | CC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)N1CCNCC1 | C19H22N6S
reactant | Et3N | 0.28 mmol, 39 μL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.28 mmol, 22 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | [4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-yl]-[4-(4-methanesulonyl-piperazin-1-yl)-phenyl]-amine | 61 mg | CC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C | C20H24N6O2S2
